US08664220B2
Step 1: 3-Bromo-5-(3-fluoro-phenyl)-pyridine
Prepared according to the procedure described in Example 1, Step 10, using 3,5-dibromo-pyridine and 3-fluorophenylboronic acid.

reactant | 3,5-dibromo-pyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 3-fluorophenylboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | 3-Bromo-5-(3-fluoro-phenyl)-pyridine | BrC=1C=NC=C(C1)C1=CC(=CC=C1)F | C11H7BrFN
